US08703758B2
N-[2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]-4-methylisoxazol-3-amine
To a solution of 1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-one (50 mg) and 4-methylisoxazol-3-amine (21.4 mg) in methanol (1 mL) and acetic acid (50 μL) was added decaborane (26.6 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with distilled water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (NH, hexane/ethyl acetate). 1M Hydrochloric acid was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (42.1 mg).

reactant | 1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-one | 50 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(C)=O)C=C1 | C19H24N2O4
reactant | 4-methylisoxazol-3-amine | 21.4 mg | CC=1C(=NOC1)N | C4H6N2O
reactant | decaborane | 26.6 mg | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]-4-methylisoxazol-3-amine | 42.1 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(C)NC2=NOC=C2C)C=C1 | C23H30N4O4
